US07884124B2
To a solution of methyl 5-(2-dimethylaminovinyl)-4-nitro-thiophene-2-carboxylate (0.698 g, 2.73 mmol) in MeOH (15.0 mL) were added ammonium formate (0.332 g, 5.26 mmol) and Pd/C (33.2 mg, 10% by weight). The mixture was refluxed for 6 h. Additional ammonium formate (0.664 g, 10.53 mmol) was added to the reaction and the mixture was refluxed for 20 h. Additional ammonium formate (0.664 g, 10.53 mmol) and Pd/C (0.1 g, 30% by weight) were added and the reaction mixture was refluxed for another 8 h. Additional Pd/C (0.1 g, 30% by weight) was added and the mixture was refluxed for another 16 h. The reaction was cooled and filtered through a Celite® plug. The filtrate was concentrated in vacuo, taken up in EtOAc (0.2 L) and washed with water, saturated aq NaCl, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by HPLC to obtain methyl 4H-thieno[3,2-b]pyrrole-2-carboxylate as a yellow solid (0.078 g, 16%). 1H NMR (400 MHz, CDCl3) δ (ppm) 8.40 (s, 1H) 7.71 (s, 1H) 7.20 (t, J=2.7 Hz, 1H) 6.50 (m, 1H), 3.90 (s, 3H).

reactant | methyl 5-(2-dimethylaminovinyl)-4-nitro-thiophene-2-carboxylate | 2.73 mmol, 0.698 g | CN(C=CC1=C(C=C(S1)C(=O)OC)[N+](=O)[O-])C | C10H12N2O4S
reactant | ammonium formate | 5.26 mmol, 0.332 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 10.53 mmol, 0.664 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 10.53 mmol, 0.664 g | C(=O)[O-].[NH4+]
solvent | MeOH | 15.0 mL | CO | CH4O
catalyst | Pd/C | 33.2 mg | [Pd] | Pd
catalyst | Pd/C | 0.1 g | [Pd] | Pd
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | methyl 4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.078 g, 16% | S1C(=CC=2NC=CC21)C(=O)OC | C8H7NO2S
